**************************************************
* Manufacturer:           Würth Elektronik
* Kinds:                  THT High Current Inductor
* Matchcode:              WE-HCFT
* Library Type:           Pspice
* Version:                rev25a
* Created/modified by:    Ella
* Date and Time:          2/6/2025
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2025 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt HCFT_2504_7443762504010_1u 1 2
Rp 1 2 386.579
Cp 1 2 18.31p
Rs 1 N3 0.00086
L1 N3 2 0.957088u
.ends HCFT_2504_7443762504010_1u
*******
.subckt HCFT_2504_7443762504022_2u2 1 2
Rp 1 2 1043
Cp 1 2 23.078p
Rs 1 N3 0.00178
L1 N3 2 2.052u
.ends HCFT_2504_7443762504022_2u2
*******
.subckt HCFT_2504_7443762504047_4u7 1 2
Rp 1 2 1962
Cp 1 2 27.828p
Rs 1 N3 0.00277
L1 N3 2 4.357u
.ends HCFT_2504_7443762504047_4u7
*******
.subckt HCFT_2504_7443762504068_6u8 1 2
Rp 1 2 3305
Cp 1 2 31.75p
Rs 1 N3 0.00421
L1 N3 2 6.562u
.ends HCFT_2504_7443762504068_6u8
*******
.subckt HCFT_2504_7443762504100_10u 1 2
Rp 1 2 3595
Cp 1 2 36.942p
Rs 1 N3 0.00421
L1 N3 2 9.74u
.ends HCFT_2504_7443762504100_10u
*******
.subckt HCFT_2012_7443782012033_3u3 1 2
Rp 1 2 1214
Cp 1 2 5.09p
Rs 1 N3 0.0022
L1 N3 2 3.14u
.ends HCFT_2012_7443782012033_3u3
*******
.subckt HCFT_2012_7443782012047_4u7 1 2
Rp 1 2 1052
Cp 1 2 7.131p
Rs 1 N3 0.0022
L1 N3 2 4.472u
.ends HCFT_2012_7443782012047_4u7
*******
.subckt HCFT_2012_7443782012068_6u8 1 2
Rp 1 2 1862
Cp 1 2 8.661p
Rs 1 N3 0.00455
L1 N3 2 6.456u
.ends HCFT_2012_7443782012068_6u8
*******
.subckt HCFT_2012_7443782012082_8u2 1 2
Rp 1 2 1887
Cp 1 2 10.254p
Rs 1 N3 0.00455
L1 N3 2 7.715u
.ends HCFT_2012_7443782012082_8u2
*******
.subckt HCFT_2012_7443782012100_10u 1 2
Rp 1 2 1952
Cp 1 2 9.028p
Rs 1 N3 0.00455
L1 N3 2 9.764u
.ends HCFT_2012_7443782012100_10u
*******
.subckt HCFT_2012_7443782012150_15u 1 2
Rp 1 2 2123
Cp 1 2 10.996p
Rs 1 N3 0.00455
L1 N3 2 14.397u
.ends HCFT_2012_7443782012150_15u
*******
.subckt HCFT_3521_7443763521015_1u5 1 2
Rp 1 2 675
Cp 1 2 12.666p
Rs 1 N3 0.00034
L1 N3 2 1.44u
.ends HCFT_3521_7443763521015_1u5
*******
.subckt HCFT_3521_7443763521022_2u2 1 2
Rp 1 2 710.532
Cp 1 2 13.476p
Rs 1 N3 0.00034
L1 N3 2 2.161u
.ends HCFT_3521_7443763521022_2u2
*******
.subckt HCFT_3521_7443763521033_3u3 1 2
Rp 1 2 788.561
Cp 1 2 13.116p
Rs 1 N3 0.00034
L1 N3 2 3.154u
.ends HCFT_3521_7443763521033_3u3
*******
.subckt HCFT_3533_7443783533220_22u 1 2
Rp 1 2 14411
Cp 1 2 16.635p
Rs 1 N3 0.008
L1 N3 2 22.944u
.ends HCFT_3533_7443783533220_22u
*******
.subckt HCFT_3533_7443783533330_33u 1 2
Rp 1 2 15155
Cp 1 2 20.186p
Rs 1 N3 0.009
L1 N3 2 33.933u
.ends HCFT_3533_7443783533330_33u
*******
.subckt HCFT_3533_7443783533470_47u 1 2
Rp 1 2 18081
Cp 1 2 20.23p
Rs 1 N3 0.0118
L1 N3 2 48.089u
.ends HCFT_3533_7443783533470_47u
*******
.subckt HCFT_3533_7443783533650_65u 1 2
Rp 1 2 21316
Cp 1 2 20.57p
Rs 1 N3 0.01313
L1 N3 2 67.169u
.ends HCFT_3533_7443783533650_65u
*******
.subckt HCFT_3540_7443763540068_6u8 1 2
Rp 1 2 2809
Cp 1 2 14.05p
Rs 1 N3 0.00101
L1 N3 2 6.676u
.ends HCFT_3540_7443763540068_6u8
*******
.subckt HCFT_3540_7443763540100_10u 1 2
Rp 1 2 3447
Cp 1 2 13.448p
Rs 1 N3 0.00101
L1 N3 2 9.906u
.ends HCFT_3540_7443763540100_10u
*******
.subckt HCFT_3540_7443763540150_15u 1 2
Rp 1 2 5621
Cp 1 2 11.08p
Rs 1 N3 0.00177
L1 N3 2 15.192u
.ends HCFT_3540_7443763540150_15u
*******
.subckt HCFT_3540_7443763540220_22u 1 2
Rp 1 2 7526
Cp 1 2 13.756p
Rs 1 N3 0.00263
L1 N3 2 21.96u
.ends HCFT_3540_7443763540220_22u
*******
.subckt HCFT_3540_7443763540330_33u 1 2
Rp 1 2 10324
Cp 1 2 17.101p
Rs 1 N3 0.00567
L1 N3 2 31.699u
.ends HCFT_3540_7443763540330_33u
*******
.subckt HCFT_3540_7443763540470_47u 1 2
Rp 1 2 13284
Cp 1 2 14.992p
Rs 1 N3 0.00567
L1 N3 2 45.688u
.ends HCFT_3540_7443763540470_47u
*******
.subckt HCFT_2520_74437625200061_0u6 1 2
Rp 1 2 996.12
Cp 1 2 2.442p
Rs 1 N3 0.00021
L1 N3 2 0.570103u
.ends HCFT_2520_74437625200061_0u6
*******
.subckt HCFT_2520_74437625200651_6u5 1 2
Rp 1 2 5896
Cp 1 2 4.304p
Rs 1 N3 0.0022
L1 N3 2 6.306u
.ends HCFT_2520_74437625200651_6u5
*******
.subckt HCFT_2520_74437625200122_1u2 1 2
Rp 1 2 689.956
Cp 1 2 2.656p
Rs 1 N3 0.00021
L1 N3 2 1.201u
.ends HCFT_2520_74437625200122_1u2
*******
.subckt HCFT_2520_74437625201002_10u 1 2
Rp 1 2 3909
Cp 1 2 4.184p
Rs 1 N3 0.00185
L1 N3 2 10.52u
.ends HCFT_2520_74437625201002_10u
*******
.subckt HCFT_3231_74437632310422_4u2 1 2
Rp 1 2 1801
Cp 1 2 5.405p
Rs 1 N3 0.00046
L1 N3 2 4.374u
.ends HCFT_3231_74437632310422_4u2
*******
.subckt HCFT_3231_74437632313002_30u 1 2
Rp 1 2 7936
Cp 1 2 6.896p
Rs 1 N3 0.00242
L1 N3 2 29.175u
.ends HCFT_3231_74437632313002_30u
*******
.subckt HCFT_3231_74437632310323_3u2 1 2
Rp 1 2 1875
Cp 1 2 8.625p
Rs 1 N3 0.0004
L1 N3 2 3.613u
.ends HCFT_3231_74437632310323_3u2
*******
.subckt HCFT_3231_74437632313003_30u 1 2
Rp 1 2 12131
Cp 1 2 8.368p
Rs 1 N3 0.00311
L1 N3 2 33.966u
.ends HCFT_3231_74437632313003_30u
*******
.subckt HCFT_3635_74437636350472_4u7 1 2
Rp 1 2 1901
Cp 1 2 6.712p
Rs 1 N3 0.0003
L1 N3 2 4.975u
.ends HCFT_3635_74437636350472_4u7
*******
.subckt HCFT_3635_74437636355602_56u 1 2
Rp 1 2 13559
Cp 1 2 7.245p
Rs 1 N3 0.00319
L1 N3 2 63.62u
.ends HCFT_3635_74437636355602_56u
*******
.subckt HCFT_3635_74437636351012_110u 1 2
Rp 1 2 21460
Cp 1 2 7.353p
Rs 1 N3 0.00628
L1 N3 2 134.015u
.ends HCFT_3635_74437636351012_110u
*******
.subckt HCFT_3635_74437636350333_3u3 1 2
Rp 1 2 1897
Cp 1 2 7.71p
Rs 1 N3 0.0003
L1 N3 2 3.52u
.ends HCFT_3635_74437636350333_3u3
*******
.subckt HCFT_3635_74437636356203_62u 1 2
Rp 1 2 18453
Cp 1 2 8.647p
Rs 1 N3 0.00522
L1 N3 2 75.298u
.ends HCFT_3635_74437636356203_62u
*******
